US08664220B2
Step 1: 2-Benzyl-5-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-[1,3,4]oxadiazole
Prepared according to the procedure described in Example 8, Step 6, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid hydrazide and phenylacetyl chloride.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid hydrazide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC(=O)NN | C12H12BrN3O2
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 2-Benzyl-5-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-[1,3,4]oxadiazole | C(C1=CC=CC=C1)C=1OC(=NN1)CC=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H16BrN3O2
